* D:\2024-25\Education\ELE713\Project\[03] Simulation\Close-Loop-Forward-Converter-2.asc
R2 Vout SEC {RL}
C1 Vout SEC {Cf} Rser=50m
D2 0 N015 D1
D1 N024 N025 D1
D3 SEC N025 D1
L4 N025 Vout {Lf} Rser=50m
L§ind3 N015 N008 {L3} Rser=20m
L§ind2 N024 SEC {L2} Rser=20m
L§ind1 N008 N011 {L1} Rser=20m
B1 N008 0 V=V(Vi)
Rs N017 0 10m
R4 N017 N018 10
C3 N018 0 2.2n
R6 N027 0 100k
R7 0 N026 160k
R8 0 N022 180k
C4 N021 0 220n
C5 Vref 0 0.1µ
R9 Vref N021 12k
R10 N021 0 18k
R11 N008 N016 240k
R12 N016 0 10k
XU2 Vbias SEC N032 N030 N033 P001 LT4430
R13 Vout N030 200K
R14 N030 SEC 27.2k
R15 P002 N033 8.2k
C7 N030 P002 4.7n
R16 P001 N029 470
M1 N011 N013 N017 N017 IPB200N25N3
XU1 N023 FB N022 MP_01 N021 Vref N016 0 N027 N018 N018 N026 0 N013 Vaux Sout LT1952-1
R21 0 SEC 1Meg
R22 N013 N017 10k
R1 N023 FB 33k
R17 N031 FB 22k
R5 0 N031 1k
Q1 0 Vref N031 0 BC856B
Vi Vi 0 PWL(0 0 1m 0 1.01m 48 3m 48 3m 48 3.01m 60)
Raux N006 0 36
C9 N002 0 {Caux} Rser=2m
D4 N004 N003 D1
L§ind4 N004 0 {L4} Rser=20m
D6 0 N003 D1
L1 N003 N002 {Laux} Rser=50m
C11 Vaux 0 10µ
XU4 0 NC_02 N005 LT1086-12
R18 Vaux N008 220
D8 P003 N010 MBR0540
C12 N010 SEC 0.1µ
D9 SEC N012 BZX84B9V1LY
Q2 N010 N012 N014 0 2SCR513P
C13 N014 SEC 4.7µ
R19 P003 N009 2.2
R20 N014 SEC 1k
R23 N010 N012 1k
V1 Vbias SEC PULSE(8 8 0 1n 1n 1)
R3 Vaux N028 220
C2 N032 SEC 2.2n
C6 N030 N033 10p
V3 NC_03 0 PULSE(0 12 1m 1n 1n 1)
XU3 N029 SEC N028 N031 NC_04 4N25
Q4 N002 N007 N001 0 2SCR513P
R27 N007 N008 82k
D12 0 N007 MMBZ16VALY
D7 0 Vaux EDZV18B
D5 N001 Vaux D1
.model D D
.lib C:\Users\ozgur\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\ozgur\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\ozgur\Documents\LTspiceXVII\lib\cmp\standard.mos
.model NMOS SW(Ron=25m Roff=1Meg Vt=.5 Vh=-.4)
.model D1 D(Ron=20m Roff=100G Vfwd=0.1)
.tran 0 0.05 0 1e-7
K1 ind1 ind2 ind3  ind4 1
.param L1 190u
.param L2  30.4u
.param L3 190u
.param L4 121.6u
.param fs  200k
.param Cf 100u
.param RL 0.625
.param Lf 16u
.param Laux 20u
.param Caux 47u
.ic V(Vaux) = 0
.ic V(C11) = 0
.lib 4N25.sub
.lib LT1083.lib
.lib LT1952-1.sub
.lib LT4430.sub
.backanno
.end
